US07414043B2
9α-(Hex-1-enyl)-estra-1,3,5(10)-triene-3,16α-diol
8.68 g (20 mmol) of pentyltriphenyl-phosphonium bromide+sodium amide (1 g contains 2.3 mmol of pentyltriphenyl-phosphonium bromide), 0.2 g (0.67 mmol) of 3,16α-dihydroxy-estra-1,3,5(10)-triene-9-carbaldehyde and 30 ml DMSO are introduced into a reaction flask that was rendered inert. The reaction mixture is treated for about 2 hours in an ultrasound bath at 60° C. After the reaction is completed, water is added to the reaction solution. The crude product is isolated by extraction with ethyl acetate, washing of the organic phase with water and concentration by evaporation until a dry state is reached.

reactant | pentyltriphenyl-phosphonium bromide sodium amide | 20 mmol, 8.68 g | [Br-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
reactant | 3,16α-dihydroxy-estra-1,3,5(10)-triene-9-carbaldehyde | 0.67 mmol, 0.2 g | OC1=CC=2CC[C@H]3[C@@H]4C[C@H](C[C@@]4(C)CC[C@@]3(C2C=C1)C=O)O | C19H24O3
reactant | DMSO | 30 ml | CS(=O)C | C2H6OS
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9α-(Hex-1-enyl)-estra-1,3,5(10)-triene-3,16α-diol | C(=CCCCC)[C@@]12C=3C=CC(=CC3CC[C@H]1[C@@H]1C[C@H](C[C@@]1(C)CC2)O)O | C24H34O2
